Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.429898655879
[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11],-3.36796150736
[H:1][O:2][C:3][C:4]#[C:5][H:6].[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],-3.8469125286
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:9][H:10].[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[C:9][H:10],-1.4121560020299997
[C:4]([H:5])[O:6][H:7].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][H:7],-6.19158731146
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-5.00760866495
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:3]1,3.62938943554
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:11][H:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.88596398903
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.190123017
[C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.28767247172
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]=[C:2]1[O:3][C@@:4]1([H:5])[C:6]([O:7])([H:8])[H:9],-0.93865228373
[C:1][C:2](=[O:3])[O:4][C:5]#[C:6][H:7]>>[C:1][C:2][O:3].[O:4][C:5]#[C:6][H:7],0.0800665301094
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-7.069910879189999
[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.7691297666400003
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.5667368224399998
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.00843315557
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],8.231728256810001
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:4](=[C:5]([H:6])[H:7])([H:10])[H:11].[H:1][O:2][C:3]#[C:9][C:12]([H:8])([H:13])[H:14],-0.937467972511
[H:1][C:2]([H:3])[C:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14],-0.16018549338
[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])=[C:12]1[H:13]>>[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:12](\[C:10](=[O:9])[H:11])[H:13],-0.898524688379
[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-4.49599251643
[C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[C:3]=[O:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.0392251540702
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])=[O:6],2.1884058564
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],2.291264682
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])[O:8][H:9].[H:7]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-2.27330616911
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.867254727930001
[H:8].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.83757658034
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-1.91926953865
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],3.2267155681200004
